US03968135
Terephthalic acid (0.25 mole), the catalyst of Example II (0.5g), and methyl isobutyl ketone (250 ml) is charged to an autoclave and heated to about 150°C. A slight stoichiometric excess of ethylene oxide is added to the autoclave. A slight exotherm is observed. After about one hour, the reaction mixture is removed from the autoclave, cleaned, and filtered. Upon cooling, a good yield of bis(2-hydroxyethyl)terephthalate is obtained in the form of a precipitate.

reactant | Terephthalic acid | 0.25 mole | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | methyl isobutyl ketone | 250 ml | C(C(C)C)C(=O)C | C6H12O
product | bis(2-hydroxyethyl)terephthalate | OCCOC(C1=CC=C(C(=O)OCCO)C=C1)=O | C12H14O6
